US06969716B2
To 3-bromo-4-fluoroacetophenone (11.0 g) in 1,4-dioxane (160 ml) and water (15 ml) was added selenium dioxide (8.8 g). The mixture was heated at reflux for 10 h, cooled to room temperature, and the solvent then removed at reduced pressure. The residue was suspended in 50% diethyl ether in isohexane, and residual solid removed by filtration. The filtrate was dried over Na2SO4, and solvent then evaporated to give (3-bromo-4-fluorophenyl)oxoacetaldehyde as a yellow oil, which was used without further purification in the next step.

reactant | 3-bromo-4-fluoroacetophenone | 11.0 g | CC(=O)C1=CC(=C(C=C1)F)Br | C8H6BrFO
reactant | selenium dioxide | 8.8 g | [Se](=O)=O | O2Se
solvent | 1,4-dioxane | 160 ml | O1CCOCC1 | C4H8O2
solvent | water | 15 ml | O | H2O
product | (3-bromo-4-fluorophenyl)oxoacetaldehyde | BrC=1C=C(C=CC1F)C(C=O)=O | C8H4BrFO2
